US05221671
1-Cyclopropanecarbonyl-4-hydroxypiperidine
20 g of 4-hydroxypiperidine was dissolved in 400 ml of dichloromethane, to which 24 g of triethylamine was added. At -60° C., 100 ml of a dichloromethane solution containing 20.7 g of cyclopropanecarbonyl chloride was further added. After completion of the reaction, the reaction solution was extracted with chloroform under salting-out conditions and dried with anhydrous magnesium sulfate, and the solvent was distilled off under reduced pressure. The resultant residue was purified by the use of silica gel column chromatography (elution solvent: dichloroethane), thereby obtaining 32 g of the intended compound (yield 96%).

reactant | 4-hydroxypiperidine | 20 g | OC1CCNCC1 | C5H11NO
reactant | triethylamine | 24 g | C(C)N(CC)CC | C6H15N
reactant | cyclopropanecarbonyl chloride | 20.7 g | C1(CC1)C(=O)Cl | C4H5ClO
solvent | dichloromethane | 400 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
product | 1-Cyclopropanecarbonyl-4-hydroxypiperidine | 32 g, yield 96% | C1(CC1)C(=O)N1CCC(CC1)O | C9H15NO2
